US04366158
A solution of 8-aminoquinoline (10 L g, 0.069 mole) and triethylamine (10 ml, 0.072 mole) in dry tetrahydrofuran (40 ml) was treated dropwise at room temperature with 4-chlorobutyryl chloride (about 0.07 mole) until the green reaction mixture turned yellow in colour. The reaction was filtered and the solids (triethylamine hydrochloride) were washed with tetrahydrofuran. The combined filtrates were concentrated by vacuum distillation, (≃15 mm Hg), filtered over alumina in methylene chloride, concentrated and recyrstallized from ether/petroleum ether affording 4-chloro-N-(8-quinolyl)butyramide. An analytical sample was prepared by recrystallization (m.p. 62°-63°), yield 53%.

reactant | 8-aminoquinoline | 0.069 mole, 10 L | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | triethylamine | 0.072 mole, 10 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutyryl chloride | about 0.07 mole | ClCCCC(=O)Cl | C4H6Cl2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-chloro-N-(8-quinolyl)butyramide | yield 53% | ClCCCC(=O)NC=1C=CC=C2C=CC=NC12 | C13H13ClN2O
